US06187393B1
A solution of 1-bromo-4-pentylbicyclo[2.2.2]octane (6 g, 23 mmol) in sieve-dried nitrobenzene (100 cm3) is added dropwise to a stirred solution of 2, 3-difluoro-4-methoxybenzene (6 g, 23 mmol) and anhydrous iron(III)chloride (1.2 g, 9 mmol) in sieve-dried nitrobenzene (100 cm3) maintained at 80° C. throughout the addition and overnight. The cooled solution is added to a small volume of hydrochloric acid and stirred for 20 min. The organic layer is separated off and steam-distilled to yield a solid residue. This is taken up in dichloromethane and dried (MgSO4). The raw product is crystallised from ethanol to yield the desired 2, 3-difluoro-1-methoxy-4-(4-pentylbicyclo[2.2.2]octyl)benzene (3.2 g, 44%)

reactant | 1-bromo-4-pentylbicyclo[2.2.2]octane | 23 mmol, 6 g | BrC12CCC(CC1)(CC2)CCCCC | C13H23Br
reactant | 2, 3-difluoro-4-methoxybenzene | 23 mmol, 6 g | FC1=CC=CC(=C1F)OC | C7H6F2O
reactant | hydrochloric acid | Cl | ClH
solvent | nitrobenzene | 100 cm3 | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
solvent | nitrobenzene | 100 cm3 | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | iron(III)chloride | 9 mmol, 1.2 g | [Fe](Cl)(Cl)Cl
product | 2, 3-difluoro-1-methoxy-4-(4-pentylbicyclo[2.2.2]octyl)benzene | 3.2 g, 44% | FC1=C(C=CC(=C1F)C12CCC(CC1)(CC2)CCCCC)OC | C20H28F2O
